US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(allyloxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg or 0.286 mmole) in 4 ml of allyl alcohol was stirred at room temperature and under nitrogen for 45 minutes with 500 mg of a 1.6% solution of potassium hydroxide (KOH) in allyl alcohol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. It was then isolated on a silica gel plate using ether, which elutes the allyl alcohol to the top of the plate (the plate was developed several times), followed by CHCl3 -acetone 1:1 which elutes the product. This procedure gives 45 mg (42%) of the title compound, having a melting point of 106°-111° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 0.286 mmole, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | ether | CCOCC | C4H10O
solvent | allyl alcohol | 4 ml | C(C=C)O | C3H6O
solvent | CHCl3 acetone | C(Cl)(Cl)Cl.CC(=O)C
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(allyloxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 45 mg, 42% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCC=C)C)=O)CC1C2N1)OC | InChI=1S/C17H20N2O5.CH3NO2/c1-4-5-24-15-8(2)13(21)12-11(14(15)22)9(7-20)17(23-3)16-10(18-16)6-19(12)17;2-1(3)4/h4,9-10,16,18,20H,1,5-7H2,2-3H3;2H2,(H,3,4)
